Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
implantation of cardiac loop recorder ___
 
History of Present Illness:
___ y/o M w/ h/o atrial fibrillation, HTN, HLD presenting for 
syncope. Patient states he was at home last night and suddenly 
lost consciousness. He was getting ready for bed at home in his 
bedroom, using a cane as he was standing. He fell on the ground 
and hit his nose/mouth. He does not recall if he tripped on 
anything, and he denies feeling chest pain, palpitations, 
lightheadedness or SOB prior to the fall. He does not remember 
LOC but believes that this would make sense since he does not 
remember why he fell. He believes that if he lost consciousness, 
it must have only been for a second. Syncope did not occur in 
setting of position change. Patient denies any recent chest 
discomfort, shortness of breath, dyspnea on exertion. Was seen 
by primary care provider this morning and referred here for 
evaluation. Patient denies any family history of early cardiac 
disease. Of note, patient has history of ablation ___ for 
a-flutter and had been off Coumadin. Noted by PCP in early 
___ to be in a-fib and placed back on Coumadin. Planned for 
cardioversion in future (awaiting 4 weeks AC with Coumadin, he 
just started about 1.5 wks ago).  
 
In the ED initial vitals were: 98.3 75 140/80 18 98% on RA. EKG: 
Afib, paired PVC's, LVH with secondary repolarization 
abnormality. Labs notable for: Trop < 0.01, K 3.5, H&H ___.  


 
Past Medical History:
 - HTN
 - HLD
 - Obstructive sleep apnea  
 - DJD L shoulder  
 - Obesity  
 - Hemorrhoids  
 - Colonic AVM  
 - Diverticulosis  
 - Gait disorder (R foot drop)  
 
 
Social History:
___
Family History:
No family history of atrial fibrillation, other arrhythmia, 
premature coronary artery disease or sudden cardiac death.  
 
Physical Exam:
ADMISSION:
Vitals: 97.9 143/96 81 20 100RA  
GENERAL: NAD, AOx3  
HEENT: EOMI, PERRL, no oropharyngeal lesions  
NECK: JVP at base of neck when patient at 30 degrees  
CARDIAC: irregular rhythm, normal rate, no murmurs  
LUNGS: CTAB no wheezes rales or rhonchi  
ABDOMEN: soft, NTND, NABS, no organomegaly appreciated  
EXTREMITIES: no edema  
SKIN: no lesions appreciated  

DISCHARGE:
Vitals: 98.7 120-140s/70-90s 60-80s 20 100% RA  
GENERAL: NAD, AOx3  
NECK: JVP <8cm at 45 degrees.  
CARDIAC: irregular rhythm, normal rate, no murmurs  
LUNGS: CTAB no wheezes rales or rhonchi  
ABDOMEN: soft, NTND, NABS, no organomegaly appreciated  
EXTREMITIES: no edema 
 
Pertinent Results:
ADMISSION:
___ 04:10PM BLOOD WBC-6.5 RBC-4.39* Hgb-14.0 Hct-41.3 
MCV-94 MCH-31.9 MCHC-33.9 RDW-12.3 RDWSD-42.5 Plt ___
___ 04:10PM BLOOD Glucose-106* UreaN-19 Creat-1.0 Na-136 
K-5.7* Cl-97 HCO3-26 AnGap-19
___ 04:10PM BLOOD Calcium-9.4 Phos-3.5 Mg-1.9
___ 04:10PM BLOOD cTropnT-<0.___: No acute intracranial process.

ECHOCARDIOGRAM ___:
LEFT ATRIUM: Severely increased LA volume index. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Markedly dilated RA. Normal IVC 
diameter (<=2.1cm) with >50% decrease with sniff (estimated RA 
pressure ___ mmHg). 

LEFT VENTRICLE: Mild symmetric LVH. Normal LV cavity size. Low 
normal LVEF. Beat-to-beat variability on LVEF due to irregular 
rhythm/premature beats. No resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal diameter of aorta at the sinus, ascending and arch 
levels. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Normal 
mitral valve supporting structures. No MS. ___ to moderate 
(___) MR. 

___ VALVE: Normal tricuspid valve leaflets. Normal 
tricuspid valve supporting structures. No TS. Mild [1+] TR. 
Moderate PA systolic hypertension. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. Normal main PA. No Doppler evidence for 
PDA 

PERICARDIUM: No pericardial effusion.   

Conclusions   
The left atrial volume index is severely increased. The right 
atrium is markedly dilated. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is low normal (LVEF 50%) due 
to the atrial fibrillation. There is considerable beat-to-beat 
variability of the left ventricular ejection fraction due to the 
irregular rhythm. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild to moderate (___) mitral regurgitation 
is seen. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.   

DISCHARGE:
___ 06:20AM BLOOD WBC-5.6 RBC-4.17* Hgb-13.3* Hct-40.1 
MCV-96 MCH-31.9 MCHC-33.2 RDW-12.3 RDWSD-43.8 Plt ___
___ 06:20AM BLOOD Glucose-101* UreaN-21* Creat-1.1 Na-140 
K-4.4 Cl-101 HCO3-29 AnGap-14
___ 06:20AM BLOOD Calcium-9.2 Phos-3.3 Mg-1.9
___ 06:20AM BLOOD CK-MB-3 cTropnT-<0.___ yo M with history of atrial flutter/fibrillation, s/p 
successful ablation in ___, recent diagnosis w/ recurrent AFib, 
now on Coumadin for potential re-cardioversion, who presents 
with syncope.  

#Syncope: Head CT was negative for acute bleed. Patient was not 
found to be orthostatic. Telemetry showed constant atrial 
fibrillation w/ HR mostly in the 60-80s. He was observed to have 
occasional pauses between heart beats, the longest being between 
2 to 3 seconds. Troponin was negative, and EKG did not show 
ischemic changes. Echocardiogram ___ showed enlarged bilateral 
atria, and mild-moderate mitral regurgitation. He received a 
loop cardiac monitor ___ in consultation with his 
elctrophysiologist Dr ___. 

#Atrial fibrillation: Constant atrial fibrillation, without RVR. 
Coumadin regimen of 7.5mg QD, as well as atenolol 50mg QD, were 
not changed.  

TRANSITIONAL ISSUES:
-Follow up loop monitor readings if syncopal episodes occur 
again
-Dr. ___ will schedule a 1-week follow-up for monitoring your 
cardiac monitor implant

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 25 mg PO QHS 
2. Losartan Potassium 100 mg PO QHS 
3. Atenolol 50 mg PO QHS 
4. Chlorthalidone 12.5 mg PO DAILY 
5. Warfarin 7.5 mg PO DAILY16 

 
Discharge Medications:
1.  Atenolol 50 mg PO QHS  
2.  Chlorthalidone 12.5 mg PO DAILY  
3.  Losartan Potassium 100 mg PO QHS  
4.  TraZODone 25 mg PO QHS  
5.  Warfarin 7.5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
syncope
atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after a fall from loss of consciousness. 
Imaging showed that you did not have a head bleed. Monitoring of 
your heart overnight showed that you were in atrial 
fibrillation, with occasional pauses of up to 2 seconds between 
heart beats. An echocardiogram did not show a cause of your 
syncope. Continue to take 7.5 mg of Coumadin per day, and follow 
up with your ___ clinic to get labs drawn every 
___. You also received implantation of a cardiac loop 
recorder, which will allow your cardiologist to monitor your 
heart rhythms going forward. It was a pleasure to take care of 
you.

Sincerely,
Your ___ Team  
 
Followup Instructions:
___